US08536183B2
1,1-dimethylethyl 4-{[2-bromo-5-(trifluoromethyl)phenyl]sulfonyl}-1-piperazinecarboxylate
To a solution of 1,1-dimethylethyl 1-piperazinecarboxylate (1 g, 5.37 mmol) in DCM (40 ml) was added DIPEA (1.969 ml, 11.28 mmol) and then 2-bromo-5-(trifluoromethyl)benzenesulfonyl chloride (1.737 g, 5.37 mmol). The mixture was stirred for 1 h 20 min at room temperature before it was washed with water (50 ml), dried on a phase separation cartridge and concentrated under vacuum.

reactant | 1,1-dimethylethyl 1-piperazinecarboxylate | 5.37 mmol, 1 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | DIPEA | 11.28 mmol, 1.969 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-bromo-5-(trifluoromethyl)benzenesulfonyl chloride | 5.37 mmol, 1.737 g | BrC1=C(C=C(C=C1)C(F)(F)F)S(=O)(=O)Cl | C7H3BrClF3O2S
solvent | DCM | 40 ml | C(Cl)Cl | CH2Cl2
product | 1,1-dimethylethyl 4-{[2-bromo-5-(trifluoromethyl)phenyl]sulfonyl}-1-piperazinecarboxylate | BrC1=C(C=C(C=C1)C(F)(F)F)S(=O)(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C16H20BrF3N2O4S
